### PR TITLE
[Merged by Bors] - chore: deprime `induction'` in root files

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
And remove direct imports of `Mathlib.Tactic.Cases`, in which `induction'` is defined.

The files deprimed in this PR are
* Files at the top of the output of [this run](https://github.com/leanprover-community/mathlib4/actions/runs/13648146304/job/38150779111), up to and including `Data.Multiset.Basic`
* Files that directly import `Mathlib.Tactic.Cases` and a downstream file to build
* `Data.Nat.Bitwise`, for using `induction'` in a local tactic
* `Data.Nat.PartENat`, `Data.Real.Basic` and `Data.Sym.Sym2` for their easy-to-replace `induction'`

Note that there are a variety of indentation styles for `induction'`; I have tried to keep the count of changed lines small without sacrificing prettiness.

### CODE REVIEW

File: Mathlib/Algebra/Order/Group/Action.lean [hunk 1]
```diff
@@ -44,15 +44,13 @@ theorem smul_strictMono_right [SMul M α] [Preorder α] [CovariantClass M α HSM
 lemma le_pow_smul {G : Type*} [Monoid G] {α : Type*} [Preorder α] {g : G} {a : α}
     [MulAction G α] [CovariantClass G α HSMul.hSMul LE.le]
     (h : a ≤ g • a) (n : ℕ) : a ≤ g ^ n • a := by
-  induction' n with n hn
-  · rw [pow_zero, one_smul]
-  · rw [pow_succ', mul_smul]
-    exact h.trans (smul_mono_right g hn)
+  induction n with
+  | zero => rw [pow_zero, one_smul]
+  | succ n hn => rw [pow_succ', mul_smul]; exact h.trans (smul_mono_right g hn)
```
Comment (urkud) [inline Mathlib/Algebra/Order/Group/Action.lean:49]: Why not preserve line breaks?
```suggestion
  | succ n hn =>
    rw [pow_succ', mul_smul]
    exact h.trans (smul_mono_right g hn)
```

File: Mathlib/Algebra/Order/Ring/Abs.lean [hunk 2]
```diff
@@ -157,7 +157,7 @@ private def geomSum : ℕ → α
   | n + 1 => a * geomSum n + b ^ (n + 1)
 
 private theorem abs_geomSum_le : |geomSum a b n| ≤ (n + 1) * max |a| |b| ^ n := by
-  induction' n with n ih; · simp [geomSum]
+  induction n with | zero => simp [geomSum] | succ n ih =>
```
Comment (urkud) [inline Mathlib/Algebra/Order/Ring/Abs.lean:160]: Was this formatting (`| zero => ... | succ n ih =>` on the same line) discussed on Zulip?

Comment (Parcly-Taxel) [reply Mathlib/Algebra/Order/Ring/Abs.lean:160]: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/induction.20cases.20on.20the.20same.20line

Comment (Parcly-Taxel) [reply Mathlib/Algebra/Order/Ring/Abs.lean]: I've capped lines like this with `?_` per @kmill's [comment](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/induction.20cases.20on.20the.20same.20line/near/506013193).

File: Mathlib/Algebra/Order/Group/Action.lean (hunk 1 above)
Comment (Parcly-Taxel) [reply Mathlib/Algebra/Order/Group/Action.lean]: Done here too.

File: Mathlib/Data/List/Lookmap.lean [hunk 3]
```diff
@@ -82,17 +81,21 @@ open Perm in
 theorem perm_lookmap (f : α → Option α) {l₁ l₂ : List α}
     (H : Pairwise (fun a b => ∀ c ∈ f a, ∀ d ∈ f b, a = b ∧ c = d) l₁) (p : l₁ ~ l₂) :
     lookmap f l₁ ~ lookmap f l₂ := by
-  induction' p with a l₁ l₂ p IH a b l l₁ l₂ l₃ p₁ _ IH₁ IH₂; · simp
-  · cases h : f a
```
Comment (j-loreaux) [inline Mathlib/Data/List/Lookmap.lean:86]: I'm glad this is getting fixed. I think this is a particularly egregious example of the lack of explicit structure in `induction'`

**Review by j-loreaux — COMMENTED** [review]
LGTM. I definitely prefer the explicit structure. This has a merge conflict now though.

bors d+

**Comment by Parcly-Taxel** [comment]
bors merge
